US05780500
1-(1-Chloro-dibenz[b,f]oxepin-10-ylmethyl)-pyrrolidine hydrochloride
Preparation analogous to Example 2 from 10-bromomethyl-1-chloro-dibenz[b,f]oxepine with pyrrolidine. Yield: 51%, yellow foam; melting point: not determined, (yellow foam); 1H-NMR (CDCl3, 200 MHz): 1.78 (m, 4H); 2.65 (m, 4H); 3.65 (s, 2H); 7.10-7.45 (m, 7H) 7.68 (d, 1H).

reactant | 10-bromomethyl-1-chloro-dibenz[b,f]oxepine | BrCC1=CC2=C(OC3=C1C=CC=C3)C=CC=C2Cl | C15H10BrClO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-(1-Chloro-dibenz[b,f]oxepin-10-ylmethyl)-pyrrolidine hydrochloride | Yield: 51% | Cl.ClC1=CC=CC=2OC3=C(C(=CC21)CN2CCCC2)C=CC=C3 | InChI=1S/C19H18ClNO.ClH/c20-17-7-5-9-19-16(17)12-14(13-21-10-3-4-11-21)15-6-1-2-8-18(15)22-19;/h1-2,5-9,12H,3-4,10-11,13H2;1H
